US03976681
Potassium tert-butoxide (8.4 g.) dissolved in tert-butanol (300 ml.) is added to a refluxing solution of 2-ethyl-4,5-dichloro-6-methoxyindan-1,3-dione (1.3 g) in tert-butanol (400 ml.)-benzene (200 ml.) and refluxing is continued for 15 min., then diphenyliodonium chloride (19.0 g.) is added and refluxing is continued for an additional 2 hours. The reaction mixture is cooled to 25°, 300 ml. water added, and the mixture concentrated to dryness in vacuo to give 2-ethyl-2-phenyl-4,5-dichloro-6-methoxyindan-1,3-dione.

reactant | Potassium tert-butoxide | 8.4 g | CC(C)([O-])C.[K+]
reactant | 2-ethyl-4,5-dichloro-6-methoxyindan-1,3-dione | 1.3 g | C(C)C1C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O | C12H10Cl2O3
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | diphenyliodonium chloride | 19.0 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 400 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 2-ethyl-2-phenyl-4,5-dichloro-6-methoxyindan-1,3-dione | C(C)C1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O)C1=CC=CC=C1 | C18H14Cl2O3
